US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
To a solution of 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide (0.1 g, 0.254 mmol) in dry DMSO (5 mL) was added magnesium methylate (1.097 mL of a 6-10% methanol solution, 0.792 mmol), and the reaction was heated to 60° C. for 0.5 hour. The reaction mixture was rotavapped to remove all of the MeOH. The heat gun was used to drive all MeOH from the bump bulb. The reaction was treated with methyl iodide (0.079 mL, 6.35 mmol) and allowed to stir at 60° C. overnight. LCMS showed trace starting material remaining and mostly N-alklated product formed (O-alkylated products minor). The reaction was diluted with 0.5 mL MeOH then 1 N HCl was added until a precipitate began to form. A 5 mL portion of 10% sodium bisulfite was added and the brown mixture turned green. Water was added and the mixture stirred for 1 hr, then the mixture was partitioned with chloroform 20 mL and 1 N HCl 20 mL. The organic layer was washed 2 times more with 1 N HCl and then with brine, dried over Na2SO4, filtered and evaporated to an oil. The residue was passed through a Gilson reverse phase column eluting from 95:5 to 5:95 to give an oil after concentration.

reactant | 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | 0.254 mmol, 0.1 g | ClC=1C=C(CN2C(C=3C(=C(N=C(C3CC2)C(=O)N(C)C)O)O)=O)C=CC1F | C18H17ClFN3O4
reactant | magnesium methylate | C[O-].C[O-].[Mg+2]
reactant | methyl iodide | 6.35 mmol, 0.079 mL | CI | CH3I
reactant | HCl | 1 N | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | Water | O | H2O
product | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C)=O)O)=O)C=CC1F | C19H19ClFN3O4
